US09339501B2
Preparation of the title compound 1-(4-cyclopropyl-pyridin-3-yl)-3-(4-fluoro-benzo[b]thiophen-6-yl)-imidazolidin-2-one (26A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 120 mg, 0.591 mmol) was reacted with 6-bromo-4-fluoro-benzo[b]thiophene (I-26d: 163.6 mg, 0.738 mmol), copper iodide (11.2 mg, 0.059 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (8.9 mg, 0.0591 mmol), potassium phosphate (375.9 mg, 1.7 mmol) and 1,4-dioxane (5 mL). Purification by column chromatography on silica gel (0.3% methanol in CHCl3) afforded 51.2 mg of the product (26% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.591 mmol, 120 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 6-bromo-4-fluoro-benzo[b]thiophene | 0.738 mmol, 163.6 mg | BrC=1C=C(C2=C(SC=C2)C1)F | C8H4BrFS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.0591 mmol, 8.9 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.7 mmol, 375.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.059 mmol, 11.2 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropyl-pyridin-3-yl)-3-(4-fluoro-benzo[b]thiophen-6-yl)-imidazolidin-2-one | 51.2 mg, 26% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C=1C=C(C2=C(SC=C2)C1)F)=O | C19H16FN3OS
